US06300354B1
a) 2,3-dihydro-1,2-benzoisothiazole 1,1-dioxide
25.3 g (138 mM [sic]) of saccharin were added in portions over the course of 90 min to 7.1 g (187 mM [sic]) of lithium aluminum hydride in 400 ml of absolute tetrahydrofuran with vigorous stirring under nitrogen; during this, the temperature was maintained at room temperature by cooling in ice. After stirring overnight, the mixture was cooled in an ice bath and, while stirring vigorously, water was cautiously added dropwise, followed by 10% strength sulfuric acid. After the precipitated hydroxides had been filtered off with suction, washing with THF, the filtrate was concentrated, the residue was partitioned between methylene chloride and water and, after acidifying with 10% strength sulfuric acid, the organic phase was washed thoroughly with sodium carbonate solution. The organic phase was dried with sodium sulfate and filtered and then concentrated. 12.0 g (52%) of product of adequate purity were isolated.

reactant | saccharin | 138 mM, 25.3 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | lithium aluminum hydride | 187 mM | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 2,3-dihydro-1,2-benzoisothiazole 1,1-dioxide | 12.0 g, 52% | S1(NCC2=C1C=CC=C2)(=O)=O | C7H7NO2S
